US07732446B1
As described in example 1, a solution of [6,7-dimethoxy-4-(4-methoxy-benzylcarbamoyl)-isoquinolin-1-ylmethyl]-carbamic acid tert-butyl ester (84 mg) was treated with HCl in EtOAc to give 46 mg (69%) of 1-aminomethyl-6,7-dimethoxy-isoquinoline-4-carboxylic acid 4-methoxy-benzylamide hydrochloride: 1H NMR (DMSO-d6) δ 3.71 (s, 3H), 3.80 (s, 3H), 3.98 (s, 3H), 4.45 (d, 2H, J=6.03 Hz), 4.69-4.72 (m, 2H), 6.90 (d, 211, J=8.64 Hz), 7.32 (d, 2H, J=8.53 Hz), 7.44 (s, 1H), 7.61 (s, 1H), 8.46 (s, 1H), 8.59-8.62 (br s, 3H), 9.25 (t, 1H, J=6.53 Hz); MS: APCI (M−H) calc'd for C21H23N3O4 380.2; found 380.0.

reactant | [6,7-dimethoxy-4-(4-methoxy-benzylcarbamoyl)-isoquinolin-1-ylmethyl]-carbamic acid tert-butyl ester | 84 mg | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)C(NCC1=CC=C(C=C1)OC)=O)=O | C26H31N3O6
reactant | HCl | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-aminomethyl-6,7-dimethoxy-isoquinoline-4-carboxylic acid 4-methoxy-benzylamide hydrochloride | 46 mg, 69% | Cl.COC1=CC=C(CNC(=O)C2=CN=C(C3=CC(=C(C=C23)OC)OC)CN)C=C1 | InChI=1S/C21H23N3O4.ClH/c1-26-14-6-4-13(5-7-14)11-24-21(25)17-12-23-18(10-22)16-9-20(28-3)19(27-2)8-15(16)17;/h4-9,12H,10-11,22H2,1-3H3,(H,24,25);1H
